US04470989
1.3 1-Carbethoxy-4-(5-chlorobenzimidazol-2-on-1-yl)piperidine
A mixture of 24.7 g of 1-carbethoxy-4-(2-amino-4-chloroanilino)-piperidine and 7.2 g of urea was heated to 160°-180° C. for 3.5 hours. The melt was taken up in 250 ml of toluene and heated, while stirring, until everything had dissolved. The solution was clarified with active charcoal, filtered and concentrated to 50 ml. The product was precipitated with diisopropyl ether. Melting point: 160° C.

reactant | 1-carbethoxy-4-(2-amino-4-chloroanilino)-piperidine | 24.7 g | C(=O)(OCC)N1CCC(CC1)NC1=C(C=C(C=C1)Cl)N | C14H20ClN3O2
reactant | urea | 7.2 g | NC(=O)N | CH4N2O
reactant | charcoal | C | CH4
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Carbethoxy-4-(5-chlorobenzimidazol-2-on-1-yl)piperidine | C(=O)(OCC)N1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | C15H18ClN3O3
